US08138189B2
Step 8: 4-{4-Chloro-3-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-2-methoxy-benzoic acid methyl ester
4-Chloro-3-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenol (50 mg) was dissolved in CH3CN (2 mL). To this solution was added 3-methoxy-4-methoxycarbonyl-phenylboronic acid pinacol ester (120 mg, [CAS Reg. No. 603122-40-3]), cupric(II)-acetate (74.5 mg) and 4-dimethylaminopyridine (66.7 mg). The rection mixture was stirred at 80° C. for 18 hours. The mixture was cooled, poured into water, extracted with ethyl acetate and the organic layer was washed with brine, dried over Na2SO4 and evaporated. The residue was purified by amino phase chromatography (ethyl acetate:heptane=2:3) to give the desired compound as a colorless solid (24 mg, 33%). MS (neg. ion, m/e)=527.9 [(M−H)−].

reactant | 4-Chloro-3-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenol | 50 mg | ClC1=C(C=C(C=C1)O)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C | C15H12Cl2F3NO2
reactant | 3-methoxy-4-methoxycarbonyl-phenylboronic acid pinacol ester | COC=1C=C(C=CC1C(=O)OC)B1OC(C)(C)C(C)(C)O1 | C15H21BO5
reactant | water | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
catalyst | 4-dimethylaminopyridine | 66.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-{4-Chloro-3-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-phenoxy}-2-methoxy-benzoic acid methyl ester | 24 mg, 33% | COC(C1=C(C=C(C=C1)OC1=CC(=C(C=C1)Cl)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)OC)=O | C24H20Cl2F3NO5
